US05210086
2.2. 3-(Phenoxymethyl)-1-piperidinepropanamine
2.9 ml (0.06 mol) of hydrazine are added to 11.3 g (0.03 mol) of 2-{3-[3-(phenoxymethyl)-1-piperidyl]propyl}-1H-isoindole-1,3(2H)-dione in 226 ml of EtOH. The mixture is heated to the refluxing temperature while stirring for 3 h. It is left to cool and filtered, the filter is rinsed with EtOH and the filtrate is concentrated. The residue is taken up with ether. The filtrate is concentrated and 4.6 g of yellow oil are obtained.

reactant | hydrazine | 0.06 mol, 2.9 ml | NN | H4N2
reactant | 2-{3-[3-(phenoxymethyl)-1-piperidyl]propyl}-1H-isoindole-1,3(2H)-dione | 0.03 mol, 11.3 g | O(C1=CC=CC=C1)CC1CN(CCC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C23H26N2O3
solvent | EtOH | 226 ml | CCO | C2H6O
product | 3-(Phenoxymethyl)-1-piperidinepropanamine | 4.6 g | O(C1=CC=CC=C1)CC1CN(CCC1)CCCN | C15H24N2O
